US04028319
When equivalent quantities of N-t-butoxycarbonyl-L-tyrosylglycylsarcosine and L-phenylalanyl-L-methionine benzyl ester are substituted for the N-t-butoxycarbonyl-L-tyrosylglycyl-L-alanine and the L-phenylalanyl-L-leucine benzyl ester, respectively, of Example 12 and the procedure detailed therein substantially repeated, there is obtained N-t-butoxycarbonyl-L-tyrosylglycylsarcosyl-L-phenylalanyl-L-methionine benzyl ester.

reactant | N-t-butoxycarbonyl-L-tyrosylglycylsarcosine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)N(C)CC(=O)O | C19H27N3O7
reactant | L-phenylalanyl-L-methionine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N)CC1=CC=CC=C1)=O)CCSC)=O | C21H26N2O3S
reactant | N-t-butoxycarbonyl-L-tyrosylglycyl-L-alanine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)N[C@@H](C)C(=O)O | C19H27N3O7
reactant | L-phenylalanyl-L-leucine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N)CC1=CC=CC=C1)=O)CC(C)C)=O | C22H28N2O3
product | N-t-butoxycarbonyl-L-tyrosylglycylsarcosyl-L-phenylalanyl-L-methionine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(CN(C)C(CNC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O)=O)=O)CC1=CC=CC=C1)=O)CCSC)=O | C40H51N5O9S
